US07625932B2
Preparation of N-(1-{4-cyano-5-ethyl-3-[4-(2-fluoro-benzyloxy)-phenyl]-1-methyl-1H-pyrrole-2-yl}-vinyl)-methanesulfonamide
Mix together 4-cyano-5-ethyl-3-[4-(2-fluoro-benzyloxy)-phenyl]-1-methyl-1H-pyrrole-2-carboxylic acid (100 mg, 0.26 mmol, prepared in example A-171), methanesulfonamide (27 mg, 1.1 Eq.), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (60 mg, 1.2 Eq.), and 4-dimethylaminopyridine (35 mg, 1.1 Eq.) in methylene chloride (8 mL) and stir overnight at room temperature under a nitrogen atmosphere. Pour the mixture into 1N HCl and extract the desired amide into methylene chloride. Separate layers, wash the organic layer once with water, dry over anhydrous magnesium sulfate, filter, and concentrate under reduced vacuum to provide 107 mg as an oil. Purify the material by silica gel chromatography (Chromatotron™) eluting with methylene chloride/methanol 19:1 to provide 71 mg of the title compound as a tan foam: Mass spectrum (m/e): 456.2 (M*+1): (Bruker 300) 1H NMR (DMSO) 8.70-8.75 (1H, s), 7.50-7.65 (2H, d), 7.00-7.40 (6H, m), 5.05-5.20 (2H, s), 3.65-3.75 (3H, s), 3.45-3.60 (3H, s), 2.56-2.76 (2H, dd), 1.00-1.10 (3H, t).

reactant | 4-cyano-5-ethyl-3-[4-(2-fluoro-benzyloxy)-phenyl]-1-methyl-1H-pyrrole-2-carboxylic acid | 0.26 mmol, 100 mg | C(#N)C=1C(=C(N(C1CC)C)C(=O)O)C1=CC=C(C=C1)OCC1=C(C=CC=C1)F | C22H19FN2O3
reactant | methanesulfonamide | 27 mg, 1.1 Eq. | CS(=O)(=O)N | CH5NO2S
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 60 mg, 1.2 Eq. | Cl.CN(CCCN=C=NCC)C
reactant | HCl | 1N | Cl | ClH
catalyst | 4-dimethylaminopyridine | 35 mg, 1.1 Eq. | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 8 mL | C(Cl)Cl | CH2Cl2
product | N-(1-{4-cyano-5-ethyl-3-[4-(2-fluoro-benzyloxy)-phenyl]-1-methyl-1H-pyrrole-2-yl}-vinyl)-methanesulfonamide | 71 mg | C(#N)C=1C(=C(N(C1CC)C)C(=C)NS(=O)(=O)C)C1=CC=C(C=C1)OCC1=C(C=CC=C1)F | C24H24FN3O3S
